US09290496B2
Step 2: Preparation of 2-chloro-9-isopropyl-N-(4-(4-methylpiperazin-1-yl)phenyl) -9H-purin-6-amine
To a reaction vial was added 2,6-dichloro-9-isopropyl-9H-purine (containing 6.3 mmol), 4-(4-methylpiperazin-1-yl)aniline (1.2 g, 6.3 mmol), isopropanol (32 mL, 0.2 M), and TFA (1 mL, 13 mmol). The reaction vial was capped, stirred and heated at 78° C. (block temperature) for 20 hr. The volatiles were removed to give a dark residue. Sat. aq. NaHCO3 (40 mL) was added. There was dark gummy solid precipitated out. Ethyl acetate (2×120 mL) and DCM (2×80 mL) were used to extract product. The combined organic layers were dried over Na2SO4 and evaporated to give a dark residue that was purified on silica with a gradient of 100% ethyl acetate to 10% ammonia (7 N in methanol)-90% ethyl acetate to give the title product as a light yellow solid (2.1 g, 86% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.04 (s, 1 H) 8.38 (s, 1 H) 7.61 (d, J=8.56 Hz, 2 H) 6.93 (d, J=8.93 Hz, 2 H) 4.71 (dt, J=13.39, 6.63 Hz, 1 H) 3.10 (br. s., 4 H) 2.45 (m, J=4.16 Hz, 4 H) 2.22 (s, 3 H) 1.52 (d, J=6.72 Hz, 6 H). m/z (APCI+) for C19H24ClN7 386.2 (M+H)+ with Cl isotope pattern. The regiochemistry of the product was also confirmed by small molecule X-ray crystallography.

reactant | 2,6-dichloro-9-isopropyl-9H-purine | 6.3 mmol | ClC1=NC(=C2N=CN(C2=N1)C(C)C)Cl | C8H8Cl2N4
reactant | 4-(4-methylpiperazin-1-yl)aniline | 6.3 mmol, 1.2 g | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | TFA | 13 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
solvent | isopropanol | 0.2 M, 32 mL | C(C)(C)O | C3H8O
product | 2-chloro-9-isopropyl-N-(4-(4-methylpiperazin-1-yl)phenyl) -9H-purin-6-amine | 2.1 g, 86% yield | ClC1=NC(=C2N=CN(C2=N1)C(C)C)NC1=CC=C(C=C1)N1CCN(CC1)C | C19H24ClN7
